US07141568B2
Preparation of ethyl 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate trihydrochloride
A 4N solution of hydrochloric acid in dioxane (122 ml, 488 mmol) was added dropwise to a stirred solution of 5-tert-butyl 1-ethyl 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate (19.5 g, 39.2 mmol), as prepared in Example 2, in dry DCM (240 ml); precipitation of a white solid occurred almost immediately. The resulting mixture was stirred at room temperature for 24 hours; after dilution with Et2O (100 ml), the solid was filtered, extensively washed with Et2O, and dried under vacuum at 50° C. to give 20.1 g of the title compound, used in the next step without further purification. [M+H]+399.

reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 488 mmol, 122 ml | O1CCOCC1 | C4H8O2
reactant | 5-tert-butyl 1-ethyl 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | 39.2 mmol, 19.5 g | CN1CCN(CC1)C1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)CN(C3)C(=O)OC(C)(C)C)C=C1 | C25H34N6O5
solvent | DCM | 240 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-5,6-dihydropyrrolo[3,4-c]pyrazole-1(4H)-carboxylate trihydrochloride | 20.1 g | Cl.Cl.Cl.CN1CCN(CC1)C1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)CNC3)C=C1 | InChI=1S/C20H26N6O3.3ClH/c1-3-29-20(28)26-17-13-21-12-16(17)18(23-26)22-19(27)14-4-6-15(7-5-14)25-10-8-24(2)9-11-25;;;/h4-7,21H,3,8-13H2,1-2H3,(H,22,23,27);3*1H
